US06641990B1
3.5-Dichloro-4-dodecyloxybenzoyl chloride, (4) (Prepared fresh)
3,5-Dichloro-4-dodecyloxybenzoic acid (200 g, 0.533 mol) was suspended/dissolved in ethyl acetate (1000 mL) with DMF (0.5 mL) and thionyl chloride (194 mL, 2.66 mol). The mixture was then heated to 60° C. for 2.5 hrs. After this period the solution was cooled, concentrated under reduced pressure and co-evaporated with ethyl acetate (×1). The resulting oil was used as such in the next step.

reactant | 3,5-Dichloro-4-dodecyloxybenzoic acid | 0.533 mol, 200 g | ClC=1C=C(C(=O)O)C=C(C1OCCCCCCCCCCCC)Cl | C19H28Cl2O3
reactant | thionyl chloride | 2.66 mol, 194 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3.5-Dichloro-4-dodecyloxybenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1OCCCCCCCCCCCC)Cl | C19H27Cl3O2
